US06794395B1
(44) 3-(Z)-(1-{4-[(N-benzyl-N-methyl-amino)-methyl]-anilino}-1-phenyl-methylidene)-5,6-methylenedioxy-2-indolinone
Prepared from 3-(1-methoxy-1-phenyl-methylidene)-5,6-methylenedioxy-2-indolinone and 4-[(N-benzyl-N-methyl-amino)-methyl]-aniline

reactant | 3-(1-methoxy-1-phenyl-methylidene)-5,6-methylenedioxy-2-indolinone | COC(C1=CC=CC=C1)=C1C(NC2=CC3=C(C=C12)OCO3)=O | C17H13NO4
reactant | 4-[(N-benzyl-N-methyl-amino)-methyl]-aniline | C(C1=CC=CC=C1)N(C)CC1=CC=C(N)C=C1 | C15H18N2
product | 3-(Z)-(1-{4-[(N-benzyl-N-methyl-amino)-methyl]-anilino}-1-phenyl-methylidene)-5,6-methylenedioxy-2-indolinone | C(C1=CC=CC=C1)N(C)CC1=CC=C(N\C(\C2=CC=CC=C2)=C\2/C(NC3=CC4=C(C=C23)OCO4)=O)C=C1 | C31H27N3O3
